US04089903
To a reactor of the type used in Example 1 is charged a cold solution of N,N-dimethylchloramine (0.87 moles), chilled to -77° C, in 300 ml of methylene chloride, followed by aluminum chloride (0.3 moles). The mixture is stirred for 5 minutes and then diethyl ether (0.4 moles) is added. After stirring for an additional 5 minutes, an additional portion of diethyl ether (0.4 moles) and 1-tetradecene (0.3 mol) is added to the stirred solution. The chilled reaction mixture is heated to -35° C and the reaction mixture stirred for one hour. At the end of this time an 80 g portion of hydrochloric acid (28% by weight) and 100-300 g of water are added to the reaction mixture and stirred for a half hour. The organic and water layers are then separated and the organic layer is stirred for an additional half-hour with 80 g of the same strength hydrochloric acid used previously. Again the organic and water layers are separated. The organic layer is filtered to yield 0.02 mol of tetradecyl amine salt. This represents a 6.68% yield based on the amount of 1-tetradecene charged.

reactant | N,N-dimethylchloramine | 0.87 moles | CN(Cl)C | C2H6ClN
reactant | aluminum chloride | 0.3 moles | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | diethyl ether | 0.4 moles | C(C)OCC | C4H10O
reactant | diethyl ether | 0.4 moles | C(C)OCC | C4H10O
reactant | 1-tetradecene | 0.3 mol | C=CCCCCCCCCCCCC | C14H28
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | water | 100-300 g | O | H2O
product | tetradecyl amine | 0.02 mol, 6.68% yield | C(CCCCCCCCCCCCC)N | C14H31N
